### PR TITLE
unprocessed output

### PR DESCRIPTION
**Pull request by kckennylau**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean [hunk 1]
```diff
@@ -25,7 +25,7 @@ a type `I` to the coproduct of copies indexed by `I` of `unit R`.
 universe u v' u'
 open CategoryTheory Limits
 
-variable {C : Type u'} [Category.{v'} C] {J : GrothendieckTopology C} {R : Sheaf J RingCat.{u}}
+variable {C : Type u'} [Category.{v'} C] {J : GrothendieckTopology C} {R : Sheaf J RingCat.{u}]
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean]:
```suggestion
variable {C : Type u'} [Category.{v'} C] {J : GrothendieckTopology C} {R : Sheaf J RingCat.{u}}
```

File: Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean [hunk 2]
```diff
@@ -218,7 +218,7 @@ def ofCocone {J : Type*} [Category J] {F : J ⥤ TopModuleCat R}
   pt := coinduced c.ι.app
   ι :=
   { app := toCoinduced c.ι.app,
-    naturality {X Y} f := by ext x; exact congr($(c.ι.naturality f).hom x) }
+    naturality {X Y} f := by ext x; exact congr ($(c.ι.naturality f).hom x) }
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean]:
```suggestion
    naturality {X Y} f := by ext x; exact congr($(c.ι.naturality f).hom x) }
```

File: Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean [hunk 3]
```diff
@@ -233,13 +233,13 @@ def isColimit {J : Type*} [Category J] {F : J ⥤ TopModuleCat R}
     change Continuous (X := F.obj i) (Y := s.pt)
       (c.ι.app i ≫ hc.desc ((forget₂ _ (ModuleCat R)).mapCocone s)).hom
     rw [hc.fac]
-    exact (s.ι.app i).hom.2⟩
-  fac s i := by ext x; exact congr($(hc.fac ((forget₂ _ _).mapCocone s) i).hom x)
+    exact (s.ι.app i).hom.2]⟩
+  fac s i := by ext x; exact congr ($(hc.fac ((forget₂ _ _).mapCocone s) i).hom x)
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean]:
```suggestion
  fac s i := by ext x; exact congr($(hc.fac ((forget₂ _ _).mapCocone s) i).hom x)
```

File: Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean [hunk 4]
```diff
@@ -233,13 +233,13 @@ def isColimit {J : Type*} [Category J] {F : J ⥤ TopModuleCat R}
...
   uniq s m H := by
     ext x
-    refine congr($(hc.uniq ((forget₂ _ _).mapCocone s) ((forget₂ _ _).map m) fun j ↦ ?_).hom x)
+    refine congr ($(hc.uniq ((forget₂ _ _).mapCocone s) ((forget₂ _ _).map m) fun j ↦ ?_).hom x)
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean]:
```suggestion
    refine congr($(hc.uniq ((forget₂ _ _).mapCocone s) ((forget₂ _ _).map m) fun j ↦ ?_).hom x)
```

File: Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean [hunk 5]
```diff
@@ -233,13 +233,13 @@ def isColimit {J : Type*} [Category J] {F : J ⥤ TopModuleCat R}
...
     ext y
-    exact congr($(H j).hom y)
+    exact congr ($(H j).hom y)
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean]:
```suggestion
    exact congr($(H j).hom y)
```

File: Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean [hunk 6]
```diff
@@ -279,7 +279,7 @@ def ofCone {J : Type*} [Category J] {F : J ⥤ TopModuleCat R}
   pt := induced c.π.app
   π :=
   { app := fromInduced c.π.app,
-    naturality {X Y} f := by ext x; exact congr($(c.π.naturality f).hom x) }
+    naturality {X Y} f := by ext x; exact congr ($(c.π.naturality f).hom x) }
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean]:
```suggestion
    naturality {X Y} f := by ext x; exact congr($(c.π.naturality f).hom x) }
```

File: Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean [hunk 7]
```diff
@@ -293,13 +293,13 @@ def isLimit {J : Type*} [Category J] {F : J ⥤ TopModuleCat R}
     change Continuous (X := s.pt) (Y := F.obj i)
       (hc.lift ((forget₂ _ (ModuleCat R)).mapCone s) ≫ c.π.app i).hom
     rw [hc.fac]
-    exact (s.π.app i).hom.2⟩
-  fac s i := by ext x; exact congr($(hc.fac ((forget₂ _ _).mapCone s) i).hom x)
+    exact (s.π.app i).hom.2]⟩
+  fac s i := by ext x; exact congr ($(hc.fac ((forget₂ _ _).mapCone s) i).hom x)
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean]:
```suggestion
  fac s i := by ext x; exact congr($(hc.fac ((forget₂ _ _).mapCone s) i).hom x)
```

File: Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean [hunk 8]
```diff
@@ -293,13 +293,13 @@ def isLimit {J : Type*} [Category J] {F : J ⥤ TopModuleCat R}
...
   uniq s m H := by
     ext x
-    refine congr($(hc.uniq ((forget₂ _ _).mapCone s) ((forget₂ _ _).map m) fun j ↦ ?_).hom x)
+    refine congr ($(hc.uniq ((forget₂ _ _).mapCone s) ((forget₂ _ _).map m) fun j ↦ ?_).hom x)
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean]:
```suggestion
    refine congr($(hc.uniq ((forget₂ _ _).mapCone s) ((forget₂ _ _).map m) fun j ↦ ?_).hom x)
```

File: Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean [hunk 9]
```diff
@@ -293,13 +293,13 @@ def isLimit {J : Type*} [Category J] {F : J ⥤ TopModuleCat R}
...
     ext y
-    exact congr($(H j).hom y)
+    exact congr ($(H j).hom y)
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/ModuleCat/Topology/Basic.lean]:
```suggestion
    exact congr($(H j).hom y)
```

File: Mathlib/Algebra/Category/MonCat/Adjunctions.lean [hunk 10]
```diff
@@ -56,7 +56,7 @@ def adjoinOneAdj : adjoinOne ⊣ forget₂ MonCat.{u} Semigrp.{u} :=
         ext ⟨_|_⟩ <;> simp <;> rfl }
 
 /-- The free functor `Type u ⥤ MonCat` sending a type `X` to the free monoid on `X`. -/
-@[to_additive "The free functor `Type u ⥤ AddMonCat` sending a type `X` to the free monoid on `X`."]
+@[to_additive "The free functor `Type u ⥤ AddMonCat` sending a type `X` to the free additive monoid on `X`."]
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/MonCat/Adjunctions.lean]:
```suggestion
@[to_additive "The free functor `Type u ⥤ AddMonCat` sending a type `X` to the free additive monoid
on `X`."]
```

File: Mathlib/Algebra/Category/Ring/Basic.lean [hunk 11]
```diff
@@ -320,7 +320,7 @@ instance hasForgetToAddCommGrp : HasForget₂ RingCat AddCommGrp where
     { obj := fun R ↦ AddCommGrp.of R
       map := fun f ↦ AddCommGrp.ofHom f.hom.toAddMonoidHom }
 
-/-- Ring equivalence are isomorphisms in category of semirings -/
+/-- Ring equivalences are isomorphisms in category of semirings -/
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/Ring/Basic.lean]:
```suggestion
/-- Ring equivalences are isomorphisms in category of rings -/
```

File: Mathlib/Algebra/Category/Ring/Basic.lean [hunk 12]
```diff
@@ -480,7 +480,7 @@ instance hasForgetToCommMonCat : HasForget₂ CommSemiRingCat CommMonCat where
     { obj := fun R ↦ CommMonCat.of R
       map := fun f ↦ CommMonCat.ofHom f.hom.toMonoidHom }
 
-/-- Ring equivalence are isomorphisms in category of semirings -/
+/-- Ring equivalences are isomorphisms in category of semirings -/
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/Ring/Basic.lean]:
```suggestion
/-- Ring equivalences are isomorphisms in category of commutative semirings -/
```

File: Mathlib/Algebra/Category/Ring/Basic.lean [hunk 13]
```diff
@@ -656,7 +656,7 @@ instance : HasForget₂ CommRingCat CommMonCat where
   forget₂ := { obj M := .of M, map f := CommMonCat.ofHom f.hom }
   forget_comp := rfl
 
-/-- Ring equivalence are isomorphisms in category of semirings -/
+/-- Ring equivalences are isomorphisms in category of semirings -/
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/Ring/Basic.lean]:
```suggestion
/-- Ring equivalences are isomorphisms in category of commutative rings -/
```

File: Mathlib/Algebra/Category/Ring/Colimits.lean [hunk 14]
```diff
@@ -11,7 +11,7 @@ import Mathlib.CategoryTheory.Limits.HasLimits
 
 This file uses a "pre-automated" approach, just as for
 `Mathlib/Algebra/Category/MonCat/Colimits.lean`.
-It is a very uniform approach, that conceivably could be synthesised directly
+It is a very uniform approach, that conceivably could be synthesized directly
```
Comment (kckennylau) [inline Mathlib/Algebra/Category/Ring/Colimits.lean]:
```suggestion
It is a very uniform approach, that conceivably could be synthesised directly
```

File: Mathlib/Algebra/CharP/Basic.lean [hunk 15]
```diff
@@ -82,7 +82,7 @@ section NonAssocSemiring
 
 variable {R} [NonAssocSemiring R]
 
-variable (R) in
+variable (R)
```
Comment (kckennylau) [inline Mathlib/Algebra/CharP/Basic.lean]:
```suggestion
variable (R) in
```

File: Mathlib/Algebra/CharP/LocalRing.lean [hunk 16]
```diff
@@ -32,7 +32,7 @@ theorem charP_zero_or_prime_power (R : Type*) [CommRing R] [IsLocalRing R] (q :
   -- `r := char(R/m)` is either prime or zero:
   rcases CharP.char_is_prime_or_zero K r with r_prime | r_zero
   · let a := q / r ^ n
-    -- If `r` is prime, we can write it as `r = a * q^n` ...
+    -- If `r` is prime, we can write it as `q = a * r^n` ...
```
Comment (kckennylau) [inline Mathlib/Algebra/CharP/LocalRing.lean]:
```suggestion
    -- If `r` is prime, we can write `q` as `a * r^n` ...
```

File: Mathlib/Algebra/CharZero/Quotient.lean [hunk 17]
```diff
@@ -18,7 +18,7 @@ variable {R : Type*} [DivisionRing R] [CharZero R] {p : R}
 
 namespace AddSubgroup
 
-/-- `z • r` is a multiple of `p` iff `r` is `pk/z` above a multiple of `p`, where `0 ≤ k < |z|`. -/
+/-- `z • r` is a multiple of `p` iff `r` is `p k / z` above a multiple of `p`, where `0 ≤ k < |z|`. -/
```
Comment (kckennylau) [inline Mathlib/Algebra/CharZero/Quotient.lean]:
```suggestion
/-- `z • r` is a multiple of `p` iff `r` is `k * (p / z)` above a multiple of `p`, where
`0 ≤ k < |z|`. -/
```

File: Mathlib/Algebra/ContinuedFractions/Computation/ApproximationCorollaries.lean [hunk 18]
```diff
@@ -59,7 +59,7 @@ section Convergence
 /-!
 ### Convergence
 
-We next show that `(GenContFract.of v).convs v` converges to `v`.
+We next show that `(GenContFract.of v).convs` converges to `v`.
```
Comment (kckennylau) [inline Mathlib/Algebra/ContinuedFractions/Computation/ApproximationCorollaries.lean]:
```suggestion
We next show that `(GenContFract.of v).convs n` converges to `v`.
```

File: Mathlib/Algebra/ContinuedFractions/Computation/Translations.lean [hunk 19]
```diff
@@ -273,7 +273,7 @@ theorem of_s_of_int (a : ℤ) : (of (a : K)).s = Stream'.Seq.nil :=
     | succ n ih => exact (of (a : K)).s.prop ih
   Stream'.Seq.ext fun n => (h n).trans (Stream'.Seq.get?_nil n).symm
 
-variable {K} (v)
+variable {K}
```
Comment (kckennylau) [inline Mathlib/Algebra/ContinuedFractions/Computation/Translations.lean]:
```suggestion
variable {K} (v)
```

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 20]
```diff
@@ -10,8 +10,8 @@ import Mathlib.Algebra.DirectSum.Decomposition
 # Decomposition of the identity of a semiring into orthogonal idempotents
 
 In this file we show that if a semiring `R` can be decomposed into a direct sum
-of (left) ideals `R = V₁ ⊕ V₂ ⊕ ⬝ ⬝ ⬝ ⊕ Vₙ` then in the corresponding decomposition
-`1 = e₁ + e₂ + ⬝ ⬝ ⬝ + eₙ` with `eᵢ ∈ Vᵢ`, each `eᵢ` is an idempotent and the
+of (left) ideals `R = V₁ ⊕ V₂ ⊕ ... ⊕ Vₙ` then in the corresponding decomposition
+`1 = e₁ + e₂ + ... + eₙ` with `eᵢ ∈ Vᵢ`, each `eᵢ` is an idempotent and the
```
Comment (kckennylau) [inline Mathlib/Algebra/DirectSum/Idempotents.lean]:
```suggestion
of (left) ideals `R = V₁ ⊕ V₂ ⊕ ⋯ ⊕ Vₙ` then in the corresponding decomposition
`1 = e₁ + e₂ + ⋯ + eₙ` with `eᵢ ∈ Vᵢ`, each `eᵢ` is an idempotent and the
```

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 21]
```diff
@@ -21,8 +21,8 @@ section OrthogonalIdempotents
 
 variable {R I : Type*} [Semiring R] [DecidableEq I] (V : I → Ideal R) [Decomposition V]
 
-/-- The decomposition of `(1 : R)` where `1 = e₁ + e₂ + ⬝ ⬝ ⬝ + eₙ` which is induced by
-  the decomposition of the semiring `R = V1 ⊕ V2 ⊕ ⬝ ⬝ ⬝ ⊕ Vn`. -/
+/-- The decomposition of `(1 : R)` where `1 = e₁ + e₂ + ... + eₙ` which is induced by
+  the decomposition of the semiring `R = V1 ⊕ V2 ⊕ ... ⊕ Vn`. -/
```
Comment (kckennylau) [inline Mathlib/Algebra/DirectSum/Idempotents.lean]:
```suggestion
/-- The decomposition of `(1 : R)` where `1 = e₁ + e₂ + ⋯ + eₙ` which is induced by
  the decomposition of the semiring `R = V1 ⊕ V2 ⊕ ⋯ ⊕ Vn`. -/
```

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 22]
```diff
@@ -135,11 +135,11 @@ section coe
 
 variable [Semiring R] [SetLike σ R] [AddSubmonoidClass σ R] (A : ι → σ)
 
-/-- The canonical ring isomorphism between `⨁ i, A i` and `R` -/
+/-- The canonical ring homomorphism between `⨁ i, A i` and `R` -/
```
Comment (kckennylau) [inline Mathlib/Algebra/DirectSum/Internal.lean]:
```suggestion
/-- The canonical ring isomorphism between `⨁ i, A i` and `R` -/
```

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 23]
```diff
@@ -135,11 +135,11 @@ section coe
...
 def coeRingHom [AddMonoid ι] [SetLike.GradedMonoid A] : (⨁ i, A i) →+* R :=
   DirectSum.toSemiring (fun i => AddSubmonoidClass.subtype (A i)) rfl fun _ _ => rfl
 
-/-- The canonical ring isomorphism between `⨁ i, A i` and `R` -/
+/-- The canonical ring homomorphism between `⨁ i, A i` and `R` -/
```
Comment (kckennylau) [inline Mathlib/Algebra/DirectSum/Internal.lean]:
```suggestion
/-- The canonical ring isomorphism between `⨁ i, A i` and `R` -/
```

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 24]
```diff
@@ -309,7 +309,7 @@ instance nat_power_gradedMonoid [CommSemiring S] [Semiring R] [Algebra S R] (p :
 
 end Submodule
 
-/-- The canonical algebra isomorphism between `⨁ i, A i` and `R`. -/
+/-- The canonical algebra homomorphism between `⨁ i, A i` and `R`. -/
```
Comment (kckennylau) [inline Mathlib/Algebra/DirectSum/Internal.lean]:
```suggestion
/-- The canonical algebra isomorphism between `⨁ i, A i` and `R`. -/
```

File: Mathlib/Algebra/DirectSum/Module.lean [hunk 25]
```diff
@@ -86,7 +86,7 @@ theorem mk_smul (s : Finset ι) (c : R) (x) : mk M s (c • x) = c • mk M s x
   (lmk R ι M s).map_smul c x
 
 /-- Scalar multiplication commutes with the inclusion of each component into the direct sum. -/
-theorem of_smul (i : ι) (c : R) (x) : of M i (c • x) = c • of M i x :=
+theorem of_smul (i : ι) (c : R) (x : M i) : of M i (c • x) = c • of M i x :=
```
Comment (kckennylau) [inline Mathlib/Algebra/DirectSum/Module.lean]:
```suggestion
theorem of_smul (i : ι) (c : R) (x) : of M i (c • x) = c • of M i x :=
```

File: Mathlib/Algebra/DirectSum/Module.lean [hunk 26]
```diff
@@ -520,7 +520,7 @@ theorem isInternal_submodule_iff_isCompl (A : ι → Submodule R M) {i j : ι} (
     (h : (Set.univ : Set ι) = {i, j}) : IsInternal A ↔ IsCompl (A i) (A j) := by
   have : ∀ k, k = i ∨ k = j := fun k ↦ by simpa using Set.ext_iff.mp h k
   rw [isInternal_submodule_iff_iSupIndep_and_iSup_eq_top, iSup, ← Set.image_univ, h,
-    Set.image_insert_eq, Set.image_singleton, sSup_pair, iSupIndep_pair hij this]
+    Set.image_insert_eq, Set.image_singleton, sSup_pair hij this]
```
Comment (kckennylau) [inline Mathlib/Algebra/DirectSum/Module.lean]:
```suggestion
    Set.image_insert_eq, Set.image_singleton, sSup_pair, iSupIndep_pair hij this]
```
